US08445530B2
2-(3-Chloro-phenyl)-2,2-difluoro-ethanol
1.00 g (4.26 mmol) (3-chloro-phenyl)-difluoro-acetic acid ethyl ester (prepared according to the procedure described in WO 2006/122788) were dissolved in 100 ml of methanol and treated in an ice bath with 120 mg (0.75 mmol) of sodium borohydride. After stirring overnight the mixture was evaporated and the residue was purified by silica gel chromatography (DCM/methanol 98:2) to give 700 mg of the title compound.

reactant | (3-chloro-phenyl)-difluoro-acetic acid ethyl ester | 4.26 mmol, 1.00 g | C(C)OC(C(F)(F)C1=CC(=CC=C1)Cl)=O | C10H9ClF2O2
reactant | sodium borohydride | 0.75 mmol, 120 mg | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-(3-Chloro-phenyl)-2,2-difluoro-ethanol | 700 mg | ClC=1C=C(C=CC1)C(CO)(F)F | C8H7ClF2O
